### ISSUE TITLE
Incorrect Proof Acceptance in Pantograph When Executing Tactics Individually

### ISSUE THREAD

**Issue by Purewhite2019** [lenianiva/Pantograph#1]
Hi, authors!
I truly appreciate the remarkable work you've done. 😊

It appears that Pantograph has a potential bug where it may accept incorrect proofs when tactics are executed one-by-one.

Consider the following example:
## The Proof That Fails in VSCode Lean 4 Language Server
The Lean proof below yields an error in the VSCode Lean 4 language server:
```lean
theorem imo_1969_p2
  (m n : ℝ)
  (k : ℕ)
  (a : ℕ → ℝ)
  (y : ℝ → ℝ)
  (h₀ : 0 < k)
  (h₁ : ∀ x, y x = ∑ i in Finset.range k, ((Real.cos (a i + x)) / (2^i)))
  (h₂ : y m = 0)
  (h₃ : y n = 0) :
  ∃ t : ℤ, m - n = t * π := by
  simp_all
  exact ⟨0, by simp [h₂]⟩
```

## The Incorrect Acceptance in Pantograph REPL Step-by-Step

Surprisingly, when this proof is fed to the Pantograph REPL step by step, the flawed proof, especially the problematic `by simp [h₂]`, is accepted.
The Python code to reproduce this behavior is as follows:
```python3
server = Server(
    imports=["Mathlib", "Aesop"],
    project_path='/path/to/MiniF2F',
    core_options=CORE_OPTIONS,
    timeout=300,
)
init_state = server.load_sorry('''theorem imo_1969_p2
  (m n : ℝ)
  (k : ℕ)
  (a : ℕ → ℝ)
  (y : ℝ → ℝ)
  (h₀ : 0 < k)
  (h₁ : ∀ x, y x = ∑ i in Finset.range k, ((Real.cos (a i + x)) / (2^i)))
  (h₂ : y m = 0)
  (h₃ : y n = 0) :
  ∃ t : ℤ, m - n = t * π := by sorry''')
assert len(init_state) == 1
init_state = init_state[0]
new_state = server.goal_tactic(init_state, 0, 'simp_all')
new_state_2 = server.goal_tactic(new_state, 0, 'exact ⟨0, by simp [h₂]⟩')
print(new_state_2.is_solved)
# True
```

## Correct Error Detection When Checking the Whole Proof
However, when Pantograph checks the entire proof at once, it correctly identifies the error.
The relevant Python code and output are as follows:
```python3
init_state_2 = server.load_sorry('''theorem imo_1969_p2
  (m n : ℝ)
  (k : ℕ)
  (a : ℕ → ℝ)
  (y : ℝ → ℝ)
  (h₀ : 0 < k)
  (h₁ : ∀ x, y x = ∑ i in Finset.range k, ((Real.cos (a i + x)) / (2^i)))
  (h₂ : y m = 0)
  (h₃ : y n = 0) :
  ∃ t : ℤ, m - n = t * π := by
  simp_all
  exact ⟨0, by simp [h₂]⟩''')
print(init_state_2[0][0])
```
The correct output is:
```lean
<anonymous>:12:12: error: unsolved goals
π m n : ℝ
k : ℕ
a : ℕ → ℝ
y : ℝ → ℝ
h₀ : 0 < k
h₁ : ∀ (x : ℝ), y x = ∑ i ∈ Finset.range k, Real.cos (a i + x) / 2 ^ i
h₂ : ∑ i ∈ Finset.range k, Real.cos (a i + m) / 2 ^ i = 0
h₃ : ∑ i ∈ Finset.range k, Real.cos (a i + n) / 2 ^ i = 0
⊢ m - n = 0
```

## Experiment Environment Details
- Pantograph: `f9d31597ec485ba08109f45753807f38b8e347f9`
- PyPantograph: `70544d42988a97ded7072db5df4ca1070c86fb9c`
- Mathlib4: `809c3fb3b5c8f5d7dace56e200b426187516535a`
- Lean4: v4.12.0

Hopefully, this report helps in identifying and resolving the issue.

**Comment by Purewhite2019** [comment]
It appears that the Lean REPL functions properly in this particular instance. I have dedicated several hours to comparing the implementation of REPL and Pantograph and have identified certain details that might potentially be the cause of this bug.

Pantograph executes tactic as follows:
https://github.com/lenianiva/Pantograph/blob/f9d31597ec485ba08109f45753807f38b8e347f9/Pantograph/Goal.lean#L180-L192

In contrast, the REPL operates [in this manner](https://github.com/leanprover-community/repl/blob/d7545ee63b5334ca70ac88c8768171526cf232fa/REPL/Snapshots.lean#L130-L150):
```lean
/-- Run a `CoreM` monadic function in the current `ProofSnapshot`, updating the `Core.State`. -/
def runCoreM (p : ProofSnapshot) (t : CoreM α) : IO (α × ProofSnapshot) := do
  let (a, coreState) ← (Lean.Core.CoreM.toIO · p.coreContext p.coreState) do t
  return (a, { p with coreState })

/-- Run a `MetaM` monadic function in the current `ProofSnapshot`, updating the `Meta.State`. -/
def runMetaM (p : ProofSnapshot) (t : MetaM α) : IO (α × ProofSnapshot) := do
  let ((a, metaState), p') ←
    p.runCoreM (Lean.Meta.MetaM.run (ctx := p.metaContext) (s := p.metaState) do t)
  return (a, { p' with metaState })

/-- Run a `TermElabM` monadic function in the current `ProofSnapshot`, updating the `Term.State`. -/
def runTermElabM (p : ProofSnapshot) (t : TermElabM α) : IO (α × ProofSnapshot) := do
  let ((a, termState), p') ← p.runMetaM (Lean.Elab.Term.TermElabM.run (s := p.termState)
    (do let r ← t; Term.synthesizeSyntheticMVarsNoPostponing; pure r))
  return (a, { p' with termState })

/-- Run a `TacticM` monadic function in the current `ProofSnapshot`, updating the `Tactic.State`. -/
def runTacticM (p : ProofSnapshot) (t : TacticM α) : IO (α × ProofSnapshot) := do
  let ((a, tacticState), p') ← p.runTermElabM (t p.tacticContext |>.run p.tacticState)
  return (a, { p' with tacticState })
```
It is worth noting that the `CoreM` maintained by REPL possesses more fine-grained information regarding the proof state. The details are [as shown here](https://github.com/leanprover/lean4/blob/dc2533473114eb8656439ff2b9335209784aa640/src/Lean/CoreM.lean#L60-L75):
```lean
/-- State for the CoreM monad. -/
structure State where
  /-- Current environment. -/
  env             : Environment
  /-- Next macro scope. We use macro scopes to avoid accidental name capture. -/
  nextMacroScope  : MacroScope     := firstFrontendMacroScope + 1
  /-- Name generator for producing unique `FVarId`s, `MVarId`s, and `LMVarId`s -/
  ngen            : NameGenerator  := {}
  /-- Trace messages -/
  traceState      : TraceState     := {}
  /-- Cache for instantiating universe polymorphic declarations. -/
  cache           : Cache          := {}
  /-- Message log. -/
  messages        : MessageLog     := {}
  /-- Info tree. We have the info tree here because we want to update it while adding attributes. -/
  infoState       : Elab.InfoState := {}
  deriving Nonempty
```
where the `messages` field might hold information about tactic errors.

In this scenario, it is possible that the tactic is executed correctly without any exception being thrown. However, its error message is contained within the `messages` field. Pantograph overlooks this, while REPL captures it. The JSON payload returned by REPL is:
```json
{"proofState": 3,
 "messages":
 [{"severity": "error",
   "pos": {"line": 0, "column": 0},
   "endPos": {"line": 0, "column": 0},
   "data":
   "unsolved goals\nπ m n : ℝ\nk : ℕ\na : ℕ → ℝ\ny : ℝ → ℝ\nh₀ : 0 < k\nh₁ : ∀ (x : ℝ), y x = ∑ i ∈ Finset.range k, Real.cos (a i + x) / 2 ^ i\nh₂ : ∑ i ∈ Finset.range k, Real.cos (a i + m) / 2 ^ i = 0\nh₃ : ∑ i ∈ Finset.range k, Real.cos (a i + n) / 2 ^ i = 0\n⊢ m - n = 0"}],
 "goals": []}
```

As a novice in programming with Lean 4, I am uncertain whether the above analysis is accurate. Nevertheless, I hope it proves useful in resolving this bug and enhancing the Pantograph project.

**Comment by lenianiva** [comment]
Thanks! I'll fix this ASAP

**Comment by lenianiva** [comment]
> It appears that the Lean REPL functions properly in this particular instance. I have dedicated several hours to comparing the implementation of REPL and Pantograph and have identified certain details that might potentially be the cause of this bug.
> 
> Pantograph executes tactic as follows:
> 
> https://github.com/lenianiva/Pantograph/blob/f9d31597ec485ba08109f45753807f38b8e347f9/Pantograph/Goal.lean#L180-L192
> 
> In contrast, the REPL operates [in this manner](https://github.com/leanprover-community/repl/blob/d7545ee63b5334ca70ac88c8768171526cf232fa/REPL/Snapshots.lean#L130-L150):
> 
> ```lean
> /-- Run a `CoreM` monadic function in the current `ProofSnapshot`, updating the `Core.State`. -/
> def runCoreM (p : ProofSnapshot) (t : CoreM α) : IO (α × ProofSnapshot) := do
>   let (a, coreState) ← (Lean.Core.CoreM.toIO · p.coreContext p.coreState) do t
>   return (a, { p with coreState })
> 
> /-- Run a `MetaM` monadic function in the current `ProofSnapshot`, updating the `Meta.State`. -/
> def runMetaM (p : ProofSnapshot) (t : MetaM α) : IO (α × ProofSnapshot) := do
>   let ((a, metaState), p') ←
>     p.runCoreM (Lean.Meta.MetaM.run (ctx := p.metaContext) (s := p.metaState) do t)
>   return (a, { p' with metaState })
> 
> /-- Run a `TermElabM` monadic function in the current `ProofSnapshot`, updating the `Term.State`. -/
> def runTermElabM (p : ProofSnapshot) (t : TermElabM α) : IO (α × ProofSnapshot) := do
>   let ((a, termState), p') ← p.runMetaM (Lean.Elab.Term.TermElabM.run (s := p.termState)
>     (do let r ← t; Term.synthesizeSyntheticMVarsNoPostponing; pure r))
>   return (a, { p' with termState })
> 
> /-- Run a `TacticM` monadic function in the current `ProofSnapshot`, updating the `Tactic.State`. -/
> def runTacticM (p : ProofSnapshot) (t : TacticM α) : IO (α × ProofSnapshot) := do
>   let ((a, tacticState), p') ← p.runTermElabM (t p.tacticContext |>.run p.tacticState)
>   return (a, { p' with tacticState })
> ```
> 
> It is worth noting that the `CoreM` maintained by REPL possesses more fine-grained information regarding the proof state. The details are [as shown here](https://github.com/leanprover/lean4/blob/dc2533473114eb8656439ff2b9335209784aa640/src/Lean/CoreM.lean#L60-L75):
> 
> ```lean
> /-- State for the CoreM monad. -/
> structure State where
>   /-- Current environment. -/
>   env             : Environment
>   /-- Next macro scope. We use macro scopes to avoid accidental name capture. -/
>   nextMacroScope  : MacroScope     := firstFrontendMacroScope + 1
>   /-- Name generator for producing unique `FVarId`s, `MVarId`s, and `LMVarId`s -/
>   ngen            : NameGenerator  := {}
>   /-- Trace messages -/
>   traceState      : TraceState     := {}
>   /-- Cache for instantiating universe polymorphic declarations. -/
>   cache           : Cache          := {}
>   /-- Message log. -/
>   messages        : MessageLog     := {}
>   /-- Info tree. We have the info tree here because we want to update it while adding attributes. -/
>   infoState       : Elab.InfoState := {}
>   deriving Nonempty
> ```
> 
> where the `messages` field might hold information about tactic errors.
> 
> In this scenario, it is possible that the tactic is executed correctly without any exception being thrown. However, its error message is contained within the `messages` field. Pantograph overlooks this, while REPL captures it. The JSON payload returned by REPL is:
> 
> ```json
> {"proofState": 3,
>  "messages":
>  [{"severity": "error",
>    "pos": {"line": 0, "column": 0},
>    "endPos": {"line": 0, "column": 0},
>    "data":
>    "unsolved goals\nπ m n : ℝ\nk : ℕ\na : ℕ → ℝ\ny : ℝ → ℝ\nh₀ : 0 < k\nh₁ : ∀ (x : ℝ), y x = ∑ i ∈ Finset.range k, Real.cos (a i + x) / 2 ^ i\nh₂ : ∑ i ∈ Finset.range k, Real.cos (a i + m) / 2 ^ i = 0\nh₃ : ∑ i ∈ Finset.range k, Real.cos (a i + n) / 2 ^ i = 0\n⊢ m - n = 0"}],
>  "goals": []}
> ```
> 
> As a novice in programming with Lean 4, I am uncertain whether the above analysis is accurate. Nevertheless, I hope it proves useful in resolving this bug and enhancing the Pantograph project.

I looked into this problem further, and I think simply outputting messages to the `CoreM` monad should not indicate that a tactic has failed.

The JSON payload from the REPL shows there are unresolved goals at **the end of the proof**, not during the tactic execution. Pantograph can capture this problem by not generating the root expression as you have noted.

Could you post on Lean 4 zulip about the behaviour of this tactic? It is kind of pathological that a tactic can just not solve goals while simultaneously removing these goals from the current `TacticM` state. This is IMO pathological.

**Comment by Purewhite2019** [comment]
> The JSON payload from the REPL shows there are unresolved goals at the end of the proof, not during the tactic execution.

Hmm... However, the function call sequence appears to be `Main.lean:runProofStep -> Snapshots.lean:runString -> runSyntax -> runTacticM -> runTermElabM -> runMetaM -> runCoreM`. Which step exactly indicates "the end of the proof"?

> Could you post on Lean 4 zulip about the behaviour of this tactic? It is kind of pathological that a tactic can just not solve goals while simultaneously removing these goals from the current `TacticM` state.

Apologies, as I have limited knowledge regarding metaprogramming in Lean, I'm unable to precisely describe this pathological behavior.
I've searched through the Zulip and came across a [related topic](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Check.20goal.20solved/near/419087340), which might prove useful. 
> _each tactic has the form `MVarId /- old goal -/ -> MetaM (List MVarId) /- new goals -/.`_

Do you imply that `exact` removes the original goal without generating new goals even if it fails to truly assign a term to the `MVarID`?

**Comment by lenianiva** [comment]
> > The JSON payload from the REPL shows there are unresolved goals at the end of the proof, not during the tactic execution.
> 
> Hmm... However, the function call sequence appears to be `Main.lean:runProofStep -> Snapshots.lean:runString -> runSyntax -> runTacticM -> runTermElabM -> runMetaM -> runCoreM`. Which step exactly indicates "the end of the proof"?

The monadic call stack (`runTacticM ... runCoreM`) only concerns about injecting the right information from the `ProofSnapshot` into the monad payload to run it. None of these steps indicate the end of the proof.

> 
> > Could you post on Lean 4 zulip about the behaviour of this tactic? It is kind of pathological that a tactic can just not solve goals while simultaneously removing these goals from the current `TacticM` state.
> 
> Apologies, as I have limited knowledge regarding metaprogramming in Lean, I'm unable to precisely describe this pathological behavior. I've searched through the Zulip and came across a [related topic](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Check.20goal.20solved/near/419087340), which might prove useful.

The question is how can a tactic (exact in this case) "succeed" and simultaneously discard unsolved goals.

> 
> > _each tactic has the form `MVarId /- old goal -/ -> MetaM (List MVarId) /- new goals -/.`_
> 
> Do you imply that `exact` removes the original goal without generating new goals even if it fails to truly assign a term to the `MVarID`?

Or maybe exact generated a mvar without adding it to the goal list.

**Comment by Purewhite2019** [comment]
Thanks for your detailed explanation! I'll make an effort to learn more about programming in Lean and hope to be able to help in the future.

> Could you post on Lean 4 zulip about the behaviour of this tactic?

Certainly. I've reached out to the community for help in [this post](https://leanprover.zulipchat.com/#narrow/channel/239415-metaprogramming-.2F-tactics/topic/.60exact.60.20Generates.20New.20MVars.20w.2Fo.20Adding.20Them.20to.20the.20Goal.20List).

**Comment by lenianiva** [comment]
> Thanks for your detailed explanation! I'll make an effort to learn more about programming in Lean and hope to be able to help in the future.
> 
> > Could you post on Lean 4 zulip about the behaviour of this tactic?
> 
> Certainly. I've reached out to the community for help in [this post](https://leanprover.zulipchat.com/#narrow/channel/239415-metaprogramming-.2F-tactics/topic/.60exact.60.20Generates.20New.20MVars.20w.2Fo.20Adding.20Them.20to.20the.20Goal.20List).

Could you replicate this behaviour in Lean LSP instead of Pantograph?

**Comment by Purewhite2019** [comment]
Lean LSP (assuming I understand correctly that you refer to [Lean Language Server](https://github.com/leanprover/lean4/tree/master/src/Lean/Server)) appears to be functioning as expected.

I've recorded the LSP communications between VSCode and the Lean Language Server. Immediately after adding `exact ⟨0, by simp [h₂]⟩`, an error is generated by the Lean Server. The details are as follows:
```
[Trace - 12:04:03] Sending notification 'textDocument/didChange'.
Params: {
    "textDocument": {
        "uri": "file:///path/to/my/test/file",
        "version": 58
    },
    "contentChanges": [
        {
            "range": {
                "start": {
                    "line": 13,
                    "character": 0
                },
                "end": {
                    "line": 13,
                    "character": 0
                }
            },
            "rangeLength": 0,
            "text": "exact ⟨0, by simp [h₂]⟩"
        }
    ]
}

[Trace - 12:04:03] Sending request 'textDocument/codeAction - (530)'.
Params: {
   ... (Omitted)
}

[Trace - 12:04:03] Received response 'textDocument/codeAction - (530)' in 1ms.
Result: []

[Trace - 12:04:03] Received notification '$/lean/fileProgress'.
Params: {
   ... (Omitted)
}

[Trace - 12:04:03] Received notification 'textDocument/publishDiagnostics'.
Params: {
    "version": 58,
    "uri": "file:///path/to/my/test/file",
    "diagnostics": [
        {
            "source": "Lean 4",
            "severity": 1,
            "range": {
                "start": {
                    "line": 13,
                    "character": 10
                },
                "end": {
                    "line": 13,
                    "character": 22
                }
            },
            "message": "unsolved goals\nπ m n : ℝ\nk : ℕ\na : ℕ → ℝ\ny : ℝ → ℝ\nh₀ : 0 < k\nh₁ : ∀ (x : ℝ), y x = ∑ i ∈ Finset.range k, Real.cos (a i + x) / 2 ^ i\nh₂ : ∑ i ∈ Finset.range k, Real.cos (a i + m) / 2 ^ i = 0\nh₃ : ∑ i ∈ Finset.range k, Real.cos (a i + n) / 2 ^ i = 0\n⊢ m - n = 0",
            "fullRange": {
                "start": {
                    "line": 13,
                    "character": 10
                },
                "end": {
                    "line": 13,
                    "character": 22
                }
            }
        }
    ]
}
```
The corresponding call chain in the Lean server appears to be _Request "textDocument/codeAction" -> `CodeActions/Basic.lean`:`handleCodeAction` -> `Server/Requests.lean`:`runCoreM` -> `Server/Snapshots.lean`:`runCoreM`_. This bears a resemblance to the implementation of REPL, which executes commands via `IO.processCommands` (`Frontend.lean:processCommandsWithInfoTrees`).

**Comment by lenianiva** [comment]
Do you have a MWE that doesn't involve Mathlib? I tried this example:
```lean
example : ∀ (p : Prop), ∃ (x : Nat), p := by
  intro p
  exact ⟨0, by simp⟩
```
and Pantograph was able to capture the failure

**Comment by Purewhite2019** [comment]
Apologies for the late response. I've been conducting intensive tests on the new commit. The original bug related to the missing error in `exact` has been resolved. However, during the test, several new false-positive proofs have emerged.

It appears that Pantograph's `load_sorry` is capable of detecting all the errors accurately. In contrast, the tactic mode in both Pantograph and Lean REPL fails to do so in certain cases.

Code snippets and test results for each of these theorems are provided below:

```lean
-- Pantograph Tactic Mode: fail to detect errors
-- Pantograph `load_sorry`: succeed to detect errors
-- REPL Tactic Mode: succeed to detect errors

theorem amc12a_2021_p12
  (a b c d : ℝ)
  (f : ℂ → ℂ)
  (h₀ : ∀ z, f z = z^6 - 10 * z^5 + a * z^4 + b * z^3 + c * z^2 + d * z + 16)
  (h₁ : ∀ z, f z = 0 → (z.im = 0 ∧ 0 < z.re ∧ ↑(Int.floor z.re) = z.re)) :
  b = -88 := by
specialize h₁ (Complex.I * 3)
norm_cast at h₁
norm_cast at h₀
simpa using h₁ (by simp [h₀])

-- unsolved goals
-- a b c d : ℝ
-- f : ℂ → ℂ
-- h₀ : ∀ (z : ℂ), f z = z ^ 6 - 10 * z ^ 5 + ↑a * z ^ 4 + ↑b * z ^ 3 + ↑c * z ^ 2 + ↑d * z + 16
-- h₁ : f (Complex.I * 3) = 0 → (Complex.I * 3).im = 0 ∧ 0 < (Complex.I * 3).re ∧ ↑⌊(Complex.I * 3).re⌋ = (Complex.I * 3).re
-- ⊢ (Complex.I * 3) ^ 6 - 10 * (Complex.I * 3) ^ 5 + ↑a * (Complex.I * 3) ^ 4 + ↑b * (Complex.I * 3) ^ 3 +
--         ↑c * (Complex.I * 3) ^ 2 +
--       ↑d * (Complex.I * 3) +
--     16 =
--   0
```

```lean
-- Pantograph Tactic Mode: fail to detect errors
-- Pantograph `load_sorry`: succeed to detect errors
-- REPL Tactic Mode: fail to detect errors

theorem imo_1978_p5
  (n : ℕ)
  (a : ℕ → ℕ)
  (h₀ : Function.Injective a)
  (h₁ : a 0 = 0)
  (h₂ : 0 < n) :
  (∑ k in Finset.Icc 1 n, (1 : ℝ)/k) ≤ ∑ k in Finset.Icc 1 n, (a k)/k^2 := by
have h₀' := h₀
simp only [Finset.sum_range_one, Finset.sum_range_zero, h₁, Nat.cast_one, div_one] at *
norm_cast
simp_all only [Finset.sum_range_succ]
norm_cast
simpa [h₀'] using Finset.sum_le_sum fun x hx => _

-- don't know how to synthesize placeholder
-- context:
-- n : ℕ
-- a : ℕ → ℕ
-- h₂ : 0 < n
-- h₀' : Function.Injective a
-- x : ℕ
-- hx : x ∈ Finset.Icc 1 n
-- ⊢ (↑x)⁻¹ ≤ ↑(a x / x ^ 2)
```

```lean
-- Pantograph Tactic Mode: fail to detect errors
-- Pantograph `load_sorry`: succeed to detect errors
-- REPL Tactic Mode: fail to detect errors

theorem algebra_apbon2pownleqapownpbpowon2
  (a b : ℝ)
  (n : ℕ)
  (h₀ : 0 < a ∧ 0 < b)
  (h₁ : 0 < n) :
  ((a + b) / 2)^n ≤ (a^n + b^n) / 2 := by
rw [div_eq_mul_inv, div_eq_mul_inv]
apply le_of_sub_nonneg
rw [sub_nonneg, mul_comm]
apply le_of_sub_nonneg
rw [mul_comm]
simp [h₀.1, h₀.2, h₁]
apply le_of_sub_nonneg
have h₀' : 0 ≤ a := h₀.1.le
simp [h₀.1, h₀.2, h₁, h₀']
apply le_of_sub_nonneg
rw [← sub_nonneg, sub_zero]
simp [h₀.1.le, h₀.2.le, h₁]
apply le_of_sub_nonneg
rw [← sub_zero (2⁻¹ * (a + b))]
nth_rewrite 1 [← zero_add (2⁻¹ * (a + b))]
field_simp
rw [div_eq_mul_inv]
field_simp [h₀.1, h₀.2, h₁]
apply div_nonneg (sub_nonneg.mpr _) (by norm_num)

-- don't know how to synthesize placeholder
-- context:
-- a b : ℝ
-- n : ℕ
-- h₀ : 0 < a ∧ 0 < b
-- h₁ : 0 < n
-- h₀' : 0 ≤ a
-- ⊢ 2 * (a + b) ^ n ≤ (a ^ n + b ^ n) * 2 ^ n
```

A potential engineering solution could be to maintain all the proof steps and double-check with `load_sorry` whenever the tactic mode indicates that a goal has been solved. However, this approach might introduce significant overhead.

Hopefully, the above details can prove useful in resolving this issue.

**Comment by lenianiva** [comment]
> Apologies for the late response. I've been conducting intensive tests on the new commit. The original bug related to the missing error in `exact` has been resolved. However, during the test, several new false-positive proofs have emerged.
> 
> It appears that Pantograph's `load_sorry` is capable of detecting all the errors accurately. In contrast, the tactic mode in both Pantograph and Lean REPL fails to do so in certain cases.
> 
> Code snippets and test results for each of these theorems are provided below:
> 
> ```lean
> -- Pantograph Tactic Mode: fail to detect errors
> -- Pantograph `load_sorry`: succeed to detect errors
> -- REPL Tactic Mode: succeed to detect errors
> 
> theorem amc12a_2021_p12
>   (a b c d : ℝ)
>   (f : ℂ → ℂ)
>   (h₀ : ∀ z, f z = z^6 - 10 * z^5 + a * z^4 + b * z^3 + c * z^2 + d * z + 16)
>   (h₁ : ∀ z, f z = 0 → (z.im = 0 ∧ 0 < z.re ∧ ↑(Int.floor z.re) = z.re)) :
>   b = -88 := by
> specialize h₁ (Complex.I * 3)
> norm_cast at h₁
> norm_cast at h₀
> simpa using h₁ (by simp [h₀])
> 
> -- unsolved goals
> -- a b c d : ℝ
> -- f : ℂ → ℂ
> -- h₀ : ∀ (z : ℂ), f z = z ^ 6 - 10 * z ^ 5 + ↑a * z ^ 4 + ↑b * z ^ 3 + ↑c * z ^ 2 + ↑d * z + 16
> -- h₁ : f (Complex.I * 3) = 0 → (Complex.I * 3).im = 0 ∧ 0 < (Complex.I * 3).re ∧ ↑⌊(Complex.I * 3).re⌋ = (Complex.I * 3).re
> -- ⊢ (Complex.I * 3) ^ 6 - 10 * (Complex.I * 3) ^ 5 + ↑a * (Complex.I * 3) ^ 4 + ↑b * (Complex.I * 3) ^ 3 +
> --         ↑c * (Complex.I * 3) ^ 2 +
> --       ↑d * (Complex.I * 3) +
> --     16 =
> --   0
> ```
> 
> ```lean
> -- Pantograph Tactic Mode: fail to detect errors
> -- Pantograph `load_sorry`: succeed to detect errors
> -- REPL Tactic Mode: fail to detect errors
> 
> theorem imo_1978_p5
>   (n : ℕ)
>   (a : ℕ → ℕ)
>   (h₀ : Function.Injective a)
>   (h₁ : a 0 = 0)
>   (h₂ : 0 < n) :
>   (∑ k in Finset.Icc 1 n, (1 : ℝ)/k) ≤ ∑ k in Finset.Icc 1 n, (a k)/k^2 := by
> have h₀' := h₀
> simp only [Finset.sum_range_one, Finset.sum_range_zero, h₁, Nat.cast_one, div_one] at *
> norm_cast
> simp_all only [Finset.sum_range_succ]
> norm_cast
> simpa [h₀'] using Finset.sum_le_sum fun x hx => _
> 
> -- don't know how to synthesize placeholder
> -- context:
> -- n : ℕ
> -- a : ℕ → ℕ
> -- h₂ : 0 < n
> -- h₀' : Function.Injective a
> -- x : ℕ
> -- hx : x ∈ Finset.Icc 1 n
> -- ⊢ (↑x)⁻¹ ≤ ↑(a x / x ^ 2)
> ```
> 
> ```lean
> -- Pantograph Tactic Mode: fail to detect errors
> -- Pantograph `load_sorry`: succeed to detect errors
> -- REPL Tactic Mode: fail to detect errors
> 
> theorem algebra_apbon2pownleqapownpbpowon2
>   (a b : ℝ)
>   (n : ℕ)
>   (h₀ : 0 < a ∧ 0 < b)
>   (h₁ : 0 < n) :
>   ((a + b) / 2)^n ≤ (a^n + b^n) / 2 := by
> rw [div_eq_mul_inv, div_eq_mul_inv]
> apply le_of_sub_nonneg
> rw [sub_nonneg, mul_comm]
> apply le_of_sub_nonneg
> rw [mul_comm]
> simp [h₀.1, h₀.2, h₁]
> apply le_of_sub_nonneg
> have h₀' : 0 ≤ a := h₀.1.le
> simp [h₀.1, h₀.2, h₁, h₀']
> apply le_of_sub_nonneg
> rw [← sub_nonneg, sub_zero]
> simp [h₀.1.le, h₀.2.le, h₁]
> apply le_of_sub_nonneg
> rw [← sub_zero (2⁻¹ * (a + b))]
> nth_rewrite 1 [← zero_add (2⁻¹ * (a + b))]
> field_simp
> rw [div_eq_mul_inv]
> field_simp [h₀.1, h₀.2, h₁]
> apply div_nonneg (sub_nonneg.mpr _) (by norm_num)
> 
> -- don't know how to synthesize placeholder
> -- context:
> -- a b : ℝ
> -- n : ℕ
> -- h₀ : 0 < a ∧ 0 < b
> -- h₁ : 0 < n
> -- h₀' : 0 ≤ a
> -- ⊢ 2 * (a + b) ^ n ≤ (a ^ n + b ^ n) * 2 ^ n
> ```
> 
> A potential engineering solution could be to maintain all the proof steps and double-check with `load_sorry` whenever the tactic mode indicates that a goal has been solved. However, this approach might introduce significant overhead.
> 
> Hopefully, the above details can prove useful in resolving this issue.

Did you try the fix branch I posted above?

**Comment by Purewhite2019** [comment]
> Did you try the fix branch I posted above?

Yes, I did. It seems that the `bug/nested-tactic-failure` branch has already been merged into `dev`.
Subsequently, I reran the experiments on the three aforementioned false-positive samples.
The results remain the same: the tactic mode fails to detect all errors, while `load_sorry` is successful.

The commits on which the experiments were run are (all three have the same results):
- [`d7457cd386ad5a738b2860e81338ca12108ff95b`](https://git.leni.sh/aniva/Pantograph/commit/d7457cd386ad5a738b2860e81338ca12108ff95b)
- [`929311a0429c2fafb5533c8f44e326c6d66b4d9c`](https://git.leni.sh/aniva/Pantograph/commit/929311a0429c2fafb5533c8f44e326c6d66b4d9c)
- [`0415baaaff3a55475cd532749c1fe9724a16fb43`](https://git.leni.sh/aniva/Pantograph/commit/0415baaaff3a55475cd532749c1fe9724a16fb43) 

The code I employed to test Pantagraph is as presented below:
```python3
server = Server(
    imports=["Mathlib", "Aesop"],
    project_path='path/to/MiniF2F',
    core_options=CORE_OPTIONS,
    timeout=300,
)
init_state = server.load_sorry('''open BigOperators Real Nat Topology
theorem imo_1978_p5
  (n : ℕ)
  (a : ℕ → ℕ)
  (h₀ : Function.Injective a)
  (h₁ : a 0 = 0)
  (h₂ : 0 < n) :
  (∑ k in Finset.Icc 1 n, (1 : ℝ)/k) ≤ ∑ k in Finset.Icc 1 n, (a k)/k^2 := by sorry''')
assert len(init_state) == 2
init_state = init_state[1]
new_state = server.goal_tactic(init_state, 0, 'have h₀\' := h₀')
new_state = server.goal_tactic(new_state, 0, 'simp only [Finset.sum_range_one, Finset.sum_range_zero, h₁, Nat.cast_one, div_one] at *')
new_state = server.goal_tactic(new_state, 0, 'norm_cast')
new_state = server.goal_tactic(new_state, 0, 'simp_all only [Finset.sum_range_succ]')
new_state = server.goal_tactic(new_state, 0, 'norm_cast')
print(new_state)
new_state = server.goal_tactic(new_state, 0, 'simpa [h₀\'] using Finset.sum_le_sum fun x hx => _')
print(new_state)
print(new_state.is_solved)
```

**Comment by lenianiva** [comment]
Can you distill down this behaviour to an example that is not dependent on mathlib? Can you show the output from LSP or REPL in comparison?

I need to know these to ensure its not a Lean tactic bug which will require a different solution.

load sorry works via a very different mechanism and it has to account for all goals at the end and thats why it can detect when a tactic drops a goal, but goal.tactic relies on the behaviour of tactics themselves

**Comment by Purewhite2019** [comment]
> Can you distill down this behaviour to an example that is not dependent on mathlib?

Here's a MWE that has no additional dependencies:

```lean
example (P Q R : Prop) (h : P → Q) : Q ∧ R := by
simpa [h] using And.imp_left h _
-- don't know how to synthesize placeholder
-- context:
-- P Q R : Prop
-- h : P → Q
-- ⊢ P ∧ R
```

To reproduce this in Python Pantograph, the following code can be used:

```python3
server = Server()
init_state = server.load_sorry('''
example (P Q R : Prop) (h : P → Q) : Q ∧ R := by sorry
''')
assert len(init_state) == 1, init_state
init_state = init_state[0]
print(init_state, end='\n\n')

new_state = server.goal_tactic(init_state, 0, 'simpa [h] using And.imp_left h _')
print(new_state.is_solved)
print(new_state, end='\n\n')
```

> Can you show the output from LSP or REPL in comparison?

REPL is successful in detecting errors for `amc12a_2021_p12` (error type: `unsolved goals`). The specific error message is as follows:

```python
Message(
    severity='error',
    data='''unsolved goals
a b c d : ℝ
f : ℂ → ℂ
h₀ : ∀ (z : ℂ), f z = z ^ 6 - 10 * z ^ 5 + ↑a * z ^ 4 + ↑b * z ^ 3 + ↑c * z ^ 2 + ↑d * z + 16
h₁ :
  f (Complex.I * 3) = 0 → (Complex.I * 3).im = 0 ∧ 0 < (Complex.I * 3).re ∧ ↑⌊(Complex.I * 3).re⌋ = (Complex.I * 3).re
⊢ (Complex.I * 3) ^ 6 - 10 * (Complex.I * 3) ^ 5 + ↑a * (Complex.I * 3) ^ 4 + ↑b * (Complex.I * 3) ^ 3 +
          ↑c * (Complex.I * 3) ^ 2 +
        ↑d * (Complex.I * 3) +
      16 =
    0''',
    pos=Pos(line=0, column=0),
    endPos=Pos(line=0, column=0)
)
```

However, it does fail on the remaining false-positives (error type: `don't know how to synthesize placeholder`).

**Comment by lenianiva** [comment]
Its curious that REPL fails on this case. I have two solutions here, which behaviour would you like to see?

1. Pantograph fails on the tactic right away
2. The unknown placeholder becomes a new goal

My existing project requires Pantograph to behave like (2) sometimes, and adding the "fix" actually broke existing tests.

The fix is here: https://git.leni.sh/aniva/Pantograph/pulls/128; I wrote unit tests covering both cases, so this PR should be addressed. Could you take a look?

**Comment by lenianiva** [comment]
This is kind of urgent so if you don't observe any other soundness violation I'll merge it into the main line and update PyPantograph.

**Comment by Purewhite2019** [comment]
It seems that `frontend_process` (utilized by `load_sorry` and `tactic_invocations`) can now capture new constants? I'm uncertain as when testing `load_sorry` on the mentioned false-positive cases, two identical errors from different positions are generated, regardless of whether `newConstants` is set to `False` or `True`.

```python
server = Server()
init_state = server.load_sorry('''
example (P Q R : Prop) (h : P → Q) : Q ∧ R := by
have h\' := h
simpa [h\'] using And.imp_left h _
''')
print(init_state)

# Result:
[["<anonymous>:4:32: error: don't know how to synthesize placeholder\ncontext:\nP Q R : Prop\nh h' : P → Q\n⊢ P ∧ R\n",
  "<anonymous>:3:0: error: don't know how to synthesize placeholder\ncontext:\nP Q R : Prop\nh h' : P → Q\n⊢ Q ∧ R\n"]]
```

Even worse, the step-by-step `goal_tactic` remains unfixed. For instance, regarding the `don't know how to synthesize placeholder` bugs,
```python
server = Server()
init_state = server.load_sorry('''
example (P Q R : Prop) (h : P → Q) : Q ∧ R := by sorry
''')
assert len(init_state) == 1, init_state
init_state = init_state[0]
new_state = server.goal_tactic(init_state, 0, 'have h\' := h')
new_state = server.goal_tactic(new_state, 0, 'simpa [h\'] using And.imp_left h _')
print(new_state.is_solved)

# True
# But there should be an error: `don't know how to synthesize placeholder\ncontext:\nP Q R : Prop\nh h' : P → Q\n⊢ P ∧ R\n`
```
and
```python
server = Server(
    imports=["Mathlib", "Aesop"],
    project_path="/path/to/MiniF2F",
    core_options=CORE_OPTIONS,
    timeout=300,
)
init_state = server.load_sorry('''open BigOperators Real Nat Topology
theorem amc12a_2021_p12
  (a b c d : ℝ)
  (f : ℂ → ℂ)
  (h₀ : ∀ z, f z = z^6 - 10 * z^5 + a * z^4 + b * z^3 + c * z^2 + d * z + 16)
  (h₁ : ∀ z, f z = 0 → (z.im = 0 ∧ 0 < z.re ∧ ↑(Int.floor z.re) = z.re)) :
  b = -88 := by sorry''')
assert len(init_state) == 2
init_state = init_state[1]
new_state = server.goal_tactic(init_state, 0, 'specialize h₁ (Complex.I * 3)')
new_state = server.goal_tactic(new_state, 0, 'norm_cast at h₁')
new_state = server.goal_tactic(new_state, 0, 'norm_cast at h₀')
new_state = server.goal_tactic(new_state, 0, 'simpa using h₁ (by simp [h₀])')
print(new_state.is_solved)

# True
# But there should be an error: `<anonymous>:11:16: error: unsolved goals\na b c d : ℝ\nf : ℂ → ℂ\nh₀ : ∀ (z : ℂ), f z = z ^ 6 - 10 * z ^ 5 + ↑a * z ^ 4 + ↑b * z ^ 3 + ↑c * z ^ 2 + ↑d * z + 16\nh₁ :\n  f (Complex.I * 3) = 0 → (Complex.I * 3).im = 0 ∧ 0 < (Complex.I * 3).re ∧ ↑⌊(Complex.I * 3).re⌋ = (Complex.I * 3).re\n⊢ (Complex.I * 3) ^ 6 - 10 * (Complex.I * 3) ^ 5 + ↑a * (Complex.I * 3) ^ 4 + ↑b * (Complex.I * 3) ^ 3 +\n          ↑c * (Complex.I * 3) ^ 2 +\n        ↑d * (Complex.I * 3) +\n      16 =\n    0\n`
```

It would be great if you could look into this issue further before proceeding with the merge and update.

**Comment by lenianiva** [comment]
> It seems that `frontend_process` (utilized by `load_sorry` and `tactic_invocations`) can now capture new constants? I'm uncertain as when testing `load_sorry` on the mentioned false-positive cases, two identical errors from different positions are generated, regardless of whether `newConstants` is set to `False` or `True`.
> 
> ```python
> server = Server()
> init_state = server.load_sorry('''
> example (P Q R : Prop) (h : P → Q) : Q ∧ R := by
> have h\' := h
> simpa [h\'] using And.imp_left h _
> ''')
> print(init_state)
> 
> # Result:
> [["<anonymous>:4:32: error: don't know how to synthesize placeholder\ncontext:\nP Q R : Prop\nh h' : P → Q\n⊢ P ∧ R\n",
>   "<anonymous>:3:0: error: don't know how to synthesize placeholder\ncontext:\nP Q R : Prop\nh h' : P → Q\n⊢ Q ∧ R\n"]]
> ```
> 
> Even worse, the step-by-step `goal_tactic` remains unfixed. For instance, regarding the `don't know how to synthesize placeholder` bugs,
> 
> ```python
> server = Server()
> init_state = server.load_sorry('''
> example (P Q R : Prop) (h : P → Q) : Q ∧ R := by sorry
> ''')
> assert len(init_state) == 1, init_state
> init_state = init_state[0]
> new_state = server.goal_tactic(init_state, 0, 'have h\' := h')
> new_state = server.goal_tactic(new_state, 0, 'simpa [h\'] using And.imp_left h _')
> print(new_state.is_solved)
> 
> # True
> # But there should be an error: `don't know how to synthesize placeholder\ncontext:\nP Q R : Prop\nh h' : P → Q\n⊢ P ∧ R\n`
> ```
> 
> and
> 
> ```python
> server = Server(
>     imports=["Mathlib", "Aesop"],
>     project_path="/path/to/MiniF2F",
>     core_options=CORE_OPTIONS,
>     timeout=300,
> )
> init_state = server.load_sorry('''open BigOperators Real Nat Topology
> theorem amc12a_2021_p12
>   (a b c d : ℝ)
>   (f : ℂ → ℂ)
>   (h₀ : ∀ z, f z = z^6 - 10 * z^5 + a * z^4 + b * z^3 + c * z^2 + d * z + 16)
>   (h₁ : ∀ z, f z = 0 → (z.im = 0 ∧ 0 < z.re ∧ ↑(Int.floor z.re) = z.re)) :
>   b = -88 := by sorry''')
> assert len(init_state) == 2
> init_state = init_state[1]
> new_state = server.goal_tactic(init_state, 0, 'specialize h₁ (Complex.I * 3)')
> new_state = server.goal_tactic(new_state, 0, 'norm_cast at h₁')
> new_state = server.goal_tactic(new_state, 0, 'norm_cast at h₀')
> new_state = server.goal_tactic(new_state, 0, 'simpa using h₁ (by simp [h₀])')
> print(new_state.is_solved)
> 
> # True
> # But there should be an error: `<anonymous>:11:16: error: unsolved goals\na b c d : ℝ\nf : ℂ → ℂ\nh₀ : ∀ (z : ℂ), f z = z ^ 6 - 10 * z ^ 5 + ↑a * z ^ 4 + ↑b * z ^ 3 + ↑c * z ^ 2 + ↑d * z + 16\nh₁ :\n  f (Complex.I * 3) = 0 → (Complex.I * 3).im = 0 ∧ 0 < (Complex.I * 3).re ∧ ↑⌊(Complex.I * 3).re⌋ = (Complex.I * 3).re\n⊢ (Complex.I * 3) ^ 6 - 10 * (Complex.I * 3) ^ 5 + ↑a * (Complex.I * 3) ^ 4 + ↑b * (Complex.I * 3) ^ 3 +\n          ↑c * (Complex.I * 3) ^ 2 +\n        ↑d * (Complex.I * 3) +\n      16 =\n    0\n`
> ```
> 
> It would be great if you could look into this issue further before proceeding with the merge and update.

Are you using the fix branch in PyPantograph? I tried on the upstream fix and these cases don't trigger the error you mentioned earlier anymore.

`newConstants` has nothing to do with this issue.

**Comment by lenianiva** [comment]
Sorry I gave you the wrong fix branch. Its this one that fixes this issue: https://git.leni.sh/aniva/Pantograph/pulls/139

**Comment by Purewhite2019** [comment]
The latest commit `bug/tactic-failure-placeholder/` [`d040d2006c7332eee67b9a0b3d8558e18469386e`](https://git.leni.sh/aniva/Pantograph/pulls/139) successfully captures unsynthesizable placeholders and generates new goals for the following examples:

```lean
example (P Q R : Prop) (h : P → Q) : Q ∧ R := by
  simpa [h] using And.imp_left h _

-- Lean:
-- don't know how to synthesize placeholder
-- context:
-- P Q R : Prop
-- h : P → Q
-- ⊢ P ∧ R

-- Pantograph:
-- P : Prop
-- Q : Prop
-- R : Prop
-- h : P → Q
-- ⊢ P ∧ R
```

And also:
```lean
theorem algebra_apbon2pownleqapownpbpowon2
  (a b : ℝ)
  (n : ℕ)
  (h₀ : 0 < a ∧ 0 < b)
  (h₁ : 0 < n) :
  ((a + b) / 2)^n ≤ (a^n + b^n) / 2 := by
  rw [div_eq_mul_inv, div_eq_mul_inv]
  apply le_of_sub_nonneg
  rw [sub_nonneg, mul_comm]
  apply le_of_sub_nonneg
  rw [mul_comm]
  simp [h₀.1, h₀.2, h₁]
  apply le_of_sub_nonneg
  have h₀' : 0 ≤ a := h₀.1.le
  simp [h₀.1, h₀.2, h₁, h₀']
  apply le_of_sub_nonneg
  rw [← sub_nonneg, sub_zero]
  simp [h₀.1.le, h₀.2.le, h₁]
  apply le_of_sub_nonneg
  rw [← sub_zero (2⁻¹ * (a + b))]
  nth_rewrite 1 [← zero_add (2⁻¹ * (a + b))]
  field_simp
  rw [div_eq_mul_inv]
  field_simp [h₀.1, h₀.2, h₁]
  apply div_nonneg (sub_nonneg.mpr _) (by norm_num)

-- Lean:
-- don't know how to synthesize placeholder
-- context:
-- a b : ℝ
-- n : ℕ
-- h₀ : 0 < a ∧ 0 < b
-- h₁ : 0 < n
-- h₀' : 0 ≤ a
-- ⊢ 2 * (a + b) ^ n ≤ (a ^ n + b ^ n) * 2 ^ n

-- Pantograph:
-- a : ℝ
-- b : ℝ
-- n : ℕ
-- h₀ : 0 < a ∧ 0 < b
-- h₁ : 0 < n
-- h₀' : 0 ≤ a
-- ⊢ 0 ≤ ((a ^ n + b ^ n) * 2 ^ n - 2 * (a + b) ^ n) / (2 * 2 ^ n)
-- a : ℝ
-- b : ℝ
-- n : ℕ
-- h₀ : 0 < a ∧ 0 < b
-- h₁ : 0 < n
-- h₀' : 0 ≤ a
-- ⊢ 2 * (a + b) ^ n ≤ (a ^ n + b ^ n) * 2 ^ n
```

However, it fails to detect `don't know how to synthesize placeholder` in this example:

```lean
theorem imo_1978_p5
  (n : ℕ)
  (a : ℕ → ℕ)
  (h₀ : Function.Injective a)
  (h₁ : a 0 = 0)
  (h₂ : 0 < n) :
  (∑ k in Finset.Icc 1 n, (1 : ℝ)/k) ≤ ∑ k in Finset.Icc 1 n, (a k)/k^2 := by
  have h₀' := h₀
  simp only [Finset.sum_range_one, Finset.sum_range_zero, h₁, Nat.cast_one, div_one] at *
  norm_cast
  simp_all only [Finset.sum_range_succ]
  norm_cast
  simpa [h₀'] using Finset.sum_le_sum fun x hx => _

-- Lean:
-- don't know how to synthesize placeholder
-- context:
-- n : ℕ
-- a : ℕ → ℕ
-- h₂ : 0 < n
-- h₀' : Function.Injective a
-- x : ℕ
-- hx : x ∈ Finset.Icc 1 n
-- ⊢ (↑x)⁻¹ ≤ ↑(a x / x ^ 2)

-- Pantograph: (solved)
```

And it also fails to detect `unsolved goals` like this one:
```lean
theorem amc12a_2021_p12
  (a b c d : ℝ)
  (f : ℂ → ℂ)
  (h₀ : ∀ z, f z = z^6 - 10 * z^5 + a * z^4 + b * z^3 + c * z^2 + d * z + 16)
  (h₁ : ∀ z, f z = 0 → (z.im = 0 ∧ 0 < z.re ∧ ↑(Int.floor z.re) = z.re)) :
  b = -88 := by
  specialize h₁ (Complex.I * 3)
  norm_cast at h₁
  norm_cast at h₀
  simpa using h₁ (by simp [h₀])

-- Lean:
-- unsolved goals
-- a b c d : ℝ
-- f : ℂ → ℂ
-- h₀ : ∀ (z : ℂ), f z = z ^ 6 - 10 * z ^ 5 + ↑a * z ^ 4 + ↑b * z ^ 3 + ↑c * z ^ 2 + ↑d * z + 16
-- h₁ : f (Complex.I * 3) = 0 → (Complex.I * 3).im = 0 ∧ 0 < (Complex.I * 3).re ∧ ↑⌊(Complex.I * 3).re⌋ = (Complex.I * 3).re
-- ⊢ (Complex.I * 3) ^ 6 - 10 * (Complex.I * 3) ^ 5 + ↑a * (Complex.I * 3) ^ 4 + ↑b * (Complex.I * 3) ^ 3 +
--         ↑c * (Complex.I * 3) ^ 2 +
--       ↑d * (Complex.I * 3) +
--     16 =
--   0

-- Pantograph: (solved)
```

Interestingly, the previous commit [`47d26badc82e606972a1b8a5285b78197411e067`](https://git.leni.sh/aniva/Pantograph/pulls/139) successfully identifies and throws errors for these cases.

Many thanks for your prompt and effective fix :)

BTW, is there a convenient way to reconstruct a proof (which can be double-checked by Lean LSP) from the proof search result based on Pantagraph? In my opinion, we might need to maintain a nested graph that records all "steps" (the tactic to execute and the corresponding goal ID) and search within a sub-graph when invoking `have` and `let`, or when generating a new goal for an unknown placeholder (and the placeholder corresponding to the goal must be located). This might seem complex but could be essential for a reliable research.

Perhaps commit `bug/tactic-failure-placeholder/` [`47d26badc82e606972a1b8a5285b78197411e067`](https://git.leni.sh/aniva/Pantograph/pulls/139) better aligns with this objective, as it avoids the need to handle goals originating from unknown placeholders.

Should we open a new issue in [PyPantograph](https://github.com/lenianiva/PyPantograph/) to discuss this further?

**Comment by lenianiva** [comment]
> The latest commit `bug/tactic-failure-placeholder/` [`d040d2006c7332eee67b9a0b3d8558e18469386e`](https://git.leni.sh/aniva/Pantograph/pulls/139) successfully captures unsynthesizable placeholders and generates new goals for the following examples:
> 
> ```lean
> example (P Q R : Prop) (h : P → Q) : Q ∧ R := by
>   simpa [h] using And.imp_left h _
> 
> -- Lean:
> -- don't know how to synthesize placeholder
> -- context:
> -- P Q R : Prop
> -- h : P → Q
> -- ⊢ P ∧ R
> 
> -- Pantograph:
> -- P : Prop
> -- Q : Prop
> -- R : Prop
> -- h : P → Q
> -- ⊢ P ∧ R
> ```
> 
> And also:
> 
> ```lean
> theorem algebra_apbon2pownleqapownpbpowon2
>   (a b : ℝ)
>   (n : ℕ)
>   (h₀ : 0 < a ∧ 0 < b)
>   (h₁ : 0 < n) :
>   ((a + b) / 2)^n ≤ (a^n + b^n) / 2 := by
>   rw [div_eq_mul_inv, div_eq_mul_inv]
>   apply le_of_sub_nonneg
>   rw [sub_nonneg, mul_comm]
>   apply le_of_sub_nonneg
>   rw [mul_comm]
>   simp [h₀.1, h₀.2, h₁]
>   apply le_of_sub_nonneg
>   have h₀' : 0 ≤ a := h₀.1.le
>   simp [h₀.1, h₀.2, h₁, h₀']
>   apply le_of_sub_nonneg
>   rw [← sub_nonneg, sub_zero]
>   simp [h₀.1.le, h₀.2.le, h₁]
>   apply le_of_sub_nonneg
>   rw [← sub_zero (2⁻¹ * (a + b))]
>   nth_rewrite 1 [← zero_add (2⁻¹ * (a + b))]
>   field_simp
>   rw [div_eq_mul_inv]
>   field_simp [h₀.1, h₀.2, h₁]
>   apply div_nonneg (sub_nonneg.mpr _) (by norm_num)
> 
> -- Lean:
> -- don't know how to synthesize placeholder
> -- context:
> -- a b : ℝ
> -- n : ℕ
> -- h₀ : 0 < a ∧ 0 < b
> -- h₁ : 0 < n
> -- h₀' : 0 ≤ a
> -- ⊢ 2 * (a + b) ^ n ≤ (a ^ n + b ^ n) * 2 ^ n
> 
> -- Pantograph:
> -- a : ℝ
> -- b : ℝ
> -- n : ℕ
> -- h₀ : 0 < a ∧ 0 < b
> -- h₁ : 0 < n
> -- h₀' : 0 ≤ a
> -- ⊢ 0 ≤ ((a ^ n + b ^ n) * 2 ^ n - 2 * (a + b) ^ n) / (2 * 2 ^ n)
> -- a : ℝ
> -- b : ℝ
> -- n : ℕ
> -- h₀ : 0 < a ∧ 0 < b
> -- h₁ : 0 < n
> -- h₀' : 0 ≤ a
> -- ⊢ 2 * (a + b) ^ n ≤ (a ^ n + b ^ n) * 2 ^ n
> ```
> 
> However, it fails to detect `don't know how to synthesize placeholder` in this example:
> 
> ```lean
> theorem imo_1978_p5
>   (n : ℕ)
>   (a : ℕ → ℕ)
>   (h₀ : Function.Injective a)
>   (h₁ : a 0 = 0)
>   (h₂ : 0 < n) :
>   (∑ k in Finset.Icc 1 n, (1 : ℝ)/k) ≤ ∑ k in Finset.Icc 1 n, (a k)/k^2 := by
>   have h₀' := h₀
>   simp only [Finset.sum_range_one, Finset.sum_range_zero, h₁, Nat.cast_one, div_one] at *
>   norm_cast
>   simp_all only [Finset.sum_range_succ]
>   norm_cast
>   simpa [h₀'] using Finset.sum_le_sum fun x hx => _
> 
> -- Lean:
> -- don't know how to synthesize placeholder
> -- context:
> -- n : ℕ
> -- a : ℕ → ℕ
> -- h₂ : 0 < n
> -- h₀' : Function.Injective a
> -- x : ℕ
> -- hx : x ∈ Finset.Icc 1 n
> -- ⊢ (↑x)⁻¹ ≤ ↑(a x / x ^ 2)
> 
> -- Pantograph: (solved)
> ```
> 
> And it also fails to detect `unsolved goals` like this one:
> 
> ```lean
> theorem amc12a_2021_p12
>   (a b c d : ℝ)
>   (f : ℂ → ℂ)
>   (h₀ : ∀ z, f z = z^6 - 10 * z^5 + a * z^4 + b * z^3 + c * z^2 + d * z + 16)
>   (h₁ : ∀ z, f z = 0 → (z.im = 0 ∧ 0 < z.re ∧ ↑(Int.floor z.re) = z.re)) :
>   b = -88 := by
>   specialize h₁ (Complex.I * 3)
>   norm_cast at h₁
>   norm_cast at h₀
>   simpa using h₁ (by simp [h₀])
> 
> -- Lean:
> -- unsolved goals
> -- a b c d : ℝ
> -- f : ℂ → ℂ
> -- h₀ : ∀ (z : ℂ), f z = z ^ 6 - 10 * z ^ 5 + ↑a * z ^ 4 + ↑b * z ^ 3 + ↑c * z ^ 2 + ↑d * z + 16
> -- h₁ : f (Complex.I * 3) = 0 → (Complex.I * 3).im = 0 ∧ 0 < (Complex.I * 3).re ∧ ↑⌊(Complex.I * 3).re⌋ = (Complex.I * 3).re
> -- ⊢ (Complex.I * 3) ^ 6 - 10 * (Complex.I * 3) ^ 5 + ↑a * (Complex.I * 3) ^ 4 + ↑b * (Complex.I * 3) ^ 3 +
> --         ↑c * (Complex.I * 3) ^ 2 +
> --       ↑d * (Complex.I * 3) +
> --     16 =
> --   0
> 
> -- Pantograph: (solved)
> ```
> 
> Interestingly, the previous commit [`47d26badc82e606972a1b8a5285b78197411e067`](https://git.leni.sh/aniva/Pantograph/pulls/139) successfully identifies and throws errors for these cases.
> 
> Many thanks for your prompt and effective fix :)
> 


I must say Lean tactics are way more pathological than I thought previously.

Is there any chance you could provide a MWE for the remaining two cases? I think I know whats going on but I want to ensure this in the code. My guess is that it happens when `simpa` depends on a subproof based on `simp`, and can you confirm REPL fails to capture this problem?

> BTW, is there a convenient way to reconstruct a proof (which can be double-checked by Lean LSP) from the proof search result based on Pantagraph? In my opinion, we might need to maintain a nested graph that records all "steps" (the tactic to execute and the corresponding goal ID) and search within a sub-graph when invoking `have` and `let`, or when generating a new goal for an unknown placeholder (and the placeholder corresponding to the goal must be located). This might seem complex but could be essential for a reliable research.
> 

Yes. This is called continuation/resumption which relies on the user to traverse the proof graph (not a proof tree, since we have coupling). This is done to ensure metavariables don't have conflicting resolutions and we can prevent the user from shooting themselves in the foot. At the end of the proof you can call `goal.print` to extract the root expression. I've elected to let the user maintain this graph. My main project has a system that maintains this graph and it has 3000+ lines of code, so its definitely not something you can just plug and play with.


> Perhaps commit `bug/tactic-failure-placeholder/` [`47d26badc82e606972a1b8a5285b78197411e067`](https://git.leni.sh/aniva/Pantograph/pulls/139) better aligns with this objective, as it avoids the need to handle goals originating from unknown placeholders.

No. This breaks existing code because it eagerly throws error upon every single unresolved mvar. My main project relies on this behaviour. I think I've a fix that maintains both behaviours.

> Should we open a new issue in [PyPantograph](https://github.com/lenianiva/PyPantograph/) to discuss this further?

No. We can close this issue and feel free to open a new one if you want to discuss proof articulation (tracking issue https://git.leni.sh/aniva/Pantograph/issues/138). I also want to make it easier for our users to print out a finished proof.

**Comment by Purewhite2019** [comment]
> Interestingly, the previous commit [`47d26badc82e606972a1b8a5285b78197411e067`](https://git.leni.sh/aniva/Pantograph/pulls/139) was successful in identifying and throwing errors for these cases.

Oops, `47d26badc82e606972a1b8a5285b78197411e067` throws incorrect errors at incorrect positions for certain proofs. For example, consider the following instance:
```lean
example (P Q R : Prop) (h : P → Q) : Q ∧ R := by
have h' := h

-- Lean LSP: 
-- unsolved goals
-- P Q R : Prop
-- h h' : P → Q
-- ⊢ Q ∧ R

-- Pantograph:
-- don't know how to synthesize placeholder
-- context:
-- P Q R : Prop
-- h h' : P → Q
-- ⊢ Q ∧ R
```
Pantograph encounters an issue when executing the `have h' := h` step. It appears that this commit fails during all `have` operations, which can be further illustrated in this simple example:
```python
server = Server()
init_state = server.load_sorry('''
example : False := by sorry
''')
assert len(init_state) == 1, init_state
init_state = init_state[0]
new_state = server.goal_tactic(init_state, 0, 'have h := 1')

# {'tacticErrors': ["<Pantograph>:0:0: error: don't know how to synthesize placeholder\ncontext:\nh : Nat\n⊢ False\n"]}
```

**Comment by lenianiva** [comment]
> > Interestingly, the previous commit [`47d26badc82e606972a1b8a5285b78197411e067`](https://git.leni.sh/aniva/Pantograph/pulls/139) was successful in identifying and throwing errors for these cases.
> 
> Oops, `47d26badc82e606972a1b8a5285b78197411e067` throws incorrect errors at incorrect positions for certain proofs. For example, consider the following instance:
> 
> ```lean
> example (P Q R : Prop) (h : P → Q) : Q ∧ R := by
> have h' := h
> 
> -- Lean LSP: 
> -- unsolved goals
> -- P Q R : Prop
> -- h h' : P → Q
> -- ⊢ Q ∧ R
> 
> -- Pantograph:
> -- don't know how to synthesize placeholder
> -- context:
> -- P Q R : Prop
> -- h h' : P → Q
> -- ⊢ Q ∧ R
> ```
> 
> Pantograph encounters an issue when executing the `have h' := h` step. It appears that this commit fails during all `have` operations, which can be further illustrated in this simple example:
> 
> ```python
> server = Server()
> init_state = server.load_sorry('''
> example : False := by sorry
> ''')
> assert len(init_state) == 1, init_state
> init_state = init_state[0]
> new_state = server.goal_tactic(init_state, 0, 'have h := 1')
> 
> # {'tacticErrors': ["<Pantograph>:0:0: error: don't know how to synthesize placeholder\ncontext:\nh : Nat\n⊢ False\n"]}
> ```

Try this one? https://git.leni.sh/aniva/Pantograph/commit/1d10cd2b205f8baf172384733793cd2a55a1f5d8 (would appreciate a MWE)

If you have an account on Lean 4 zulip chat we can discuss there since this is not very efficient.

**Comment by Purewhite2019** [comment]
> Try this one? https://git.leni.sh/aniva/Pantograph/commit/1d10cd2b205f8baf172384733793cd2a55a1f5d8 (would appreciate a MWE)
> Is there any chance you could provide a MWE for the remaining two cases

Similar to [d040d2006c7332eee67b9a0b3d8558e18469386e](https://git.leni.sh/aniva/Pantograph/pulls/139), the commit `1d10cd2b205f8baf172384733793cd2a55a1f5d8` also fails to detect errors for `imo_1978_p5` (`don't know how to synthesize placeholder`) and `amc12a_2021_p12` (`unsolved goals`). Maybe both of them might be rooted in the potentially abnormal behavior of the `simpa` tactic. I'm currently in the process of finding a MWE for this.

> can you confirm REPL fails to capture this problem?

REPL (`65f1337eab0c0c400143ce85ea9063bc20c83a45`) does manage to capture the "unsolved goals" in `amc12a_2021_p12` for step `simpa using h₁ (by simp [h₀])`. However, it fails to capture "don't know how to synthesize placeholder" error that arises in the `imo_1978_p5` case during the `simpa [h₀'] using Finset.sum_le_sum fun x hx => _`.

> If you have an account on Lean 4 zulip chat we can discuss there since this is not very efficient.

Sure, I'll get in touch with you on Zulip.

**Comment by lenianiva** [comment]
Fixed both errors in https://git.leni.sh/aniva/Pantograph/commit/cb87fcd9dd89fdeaaaad49f0dd0111b4e7416c49.

To reproduce, use these files and pipe them into `pantograph-repl`'s stdin.
```
frontend.process {"file": "theorem amc12a_2021_p12 (a b c d : ℝ) (f : ℂ → ℂ) (h₀ : ∀ z, f z = z^6 - 10 * z^5 + a * z^4 + b * z^3 + c * z^2 + d * z + 16) (h₁ : ∀ z, f z = 0 → (z.im = 0 ∧ 0 < z.re ∧ ↑(Int.floor z.re) = z.re)) : b = -88 := sorry", "invocations": false, "sorrys": true}
goal.tactic {"stateId": 0, "goalId": 0, "tactic": "specialize h₁ (Complex.I * 3)"}
goal.tactic {"stateId": 1, "goalId": 0, "tactic": "norm_cast at h₁"}
goal.tactic {"stateId": 2, "goalId": 0, "tactic": "norm_cast at h₀"}
goal.tactic {"stateId": 3, "goalId": 0, "tactic": "simpa using h₁ (by simp [h₀])"}
```
(throws error, which is the correct behaviour)

```
frontend.process {"file": "theorem imo_1978_p5 (n : ℕ) (a : ℕ → ℕ) (h₀ : Function.Injective a) (h₁ : a 0 = 0) (h₂ : 0 < n) : (∑ k in Finset.Icc 1 n, (1 : ℝ)/k) ≤ ∑ k in Finset.Icc 1 n, (a k)/k^2 := sorry", "invocations": false, "sorrys": true}
goal.tactic {"stateId": 0, "goalId": 0, "tactic": "simp only [Finset.sum_range_one, Finset.sum_range_zero, h₁, Nat.cast_one, div_one] at *"}
goal.tactic {"stateId": 1, "goalId": 0, "tactic": "norm_cast"}
goal.tactic {"stateId": 2, "goalId": 0, "tactic": "simp_all only [Finset.sum_range_succ]"}
goal.tactic {"stateId": 3, "goalId": 0, "tactic": "norm_cast"}
goal.tactic {"stateId": 4, "goalId": 0, "tactic": "simpa [h₀] using Finset.sum_le_sum fun x hx => _"}
```
(generates 1 goal, which is the correct behaviour)

**Comment by Purewhite2019** [comment]
Solved :tada:
